US05192776
A stirring solution of 7.11 g of imidazole in 100 ml of dimethylformamide was treated with a solution of 7.22 g of 1-(2-chloroacetyl)-4-(2,3,4,5,6-pentafluorophenoxy)piperidine in 50 ml of dimethylformamide and then stirred at 75° C. for five hours. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water followed by a saturated solution of sodium chloride, dried over anhydrous magnesium sulfate, filtered and concentrated to an oil. The oil was purified by means of high pressure liquid chromatography (silica gel; elution with 7.5% methanol/dichloromethane). Recrystallization of the resulting solid from ethyl acetate/hexane (10:1) afforded 3.70 g (47.0%) of 1-[(2-imidazol-1-yl)acetyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine, m.p. 95°-96° C.

reactant | imidazole | 7.11 g | N1C=NC=C1 | C3H4N2
reactant | 1-(2-chloroacetyl)-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 7.22 g | ClCC(=O)N1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F | C13H11ClF5NO2
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[(2-imidazol-1-yl)acetyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 3.70 g, 47.0% | N1(C=NC=C1)CC(=O)N1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F | C16H14F5N3O2
